US06015818
To a suspension of 3-amino-1-(tert-butyldiphenylsilyloxymethyl)-2,6-dimethylbenzene (42.4 g) in pyridine (17.2 g) and N,N-dimethylformamide (212 ml) was added phthalimidoacetyl chloride (25.6 g) over the period of 15 minutes under ice-cooling, and the mixture was stirred for 1 hour at the same temperature. Water was added thereto, and the resulting precipitate was collected by filtration and washed with acetone to give 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dimethyl-3-(phthalimidoacetylamino)benzene (59.1 g) as colorless crystals.

reactant | 3-amino-1-(tert-butyldiphenylsilyloxymethyl)-2,6-dimethylbenzene | 42.4 g | NC=1C(=C(C(=CC1)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C25H31NOSi
reactant | phthalimidoacetyl chloride | 25.6 g | C1(C=2C(C(N1CC(=O)Cl)=O)=CC=CC2)=O | C10H6ClNO3
reactant | Water | O | H2O
solvent | pyridine | 17.2 g | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 212 ml | CN(C=O)C | C3H7NO
product | 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dimethyl-3-(phthalimidoacetylamino)benzene | 59.1 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C(=CC=C1C)NC(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C | C35H36N2O4Si
